US04737516
(I) 2-Fluoro-7-methylbenzo[b]thiophene
To a solution of 7 g of 7-methylbenzo[b]thiophene in abs. tetryhydrofuran are added dropwise at -78°, 30 ml of a 1.6M solution of n-butyllithium in hexane. After 20 minutes 5.5 g of perchloryl fluoride are introduced whereby the reaction temperature is maintained below -60°. After 30 minutes at -78° the temperature is slowly raised to 0°. The mixture is then mixed with water and the organic phase separated, washed, dried and concentrated under vacuum. The residue is chromatographed (eluant: n-hexane) to obtain the title compound as an oil.

reactant | 7-methylbenzo[b]thiophene | 7 g | CC1=CC=CC2=C1SC=C2 | C9H8S
reactant | n-butyllithium | C(CCC)[Li]
reactant | perchloryl fluoride | 5.5 g | Cl(=O)(=O)(=O)F | ClFO3
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-Fluoro-7-methylbenzo[b]thiophene | FC1=CC2=C(S1)C(=CC=C2)C | C9H7FS
